US07320973B2
60% sodium hydride (35 mg, 0.88 mmol) was washed with hexane in argon stream and then suspended in dimethyl sulfoxide (5 ml), and the obtained suspension was stirred at room temperature for 30 minutes. 1-Fluoro-5,11-dihydrodibenzo[b,e][1,4]oxazepine (0.17 g, 0.80 mmol) was added to the suspension, and they were stirred at room temperature for 30 minutes and then at 50° C. for additional 30 minutes. A solution of (R)-3-chloro-1-(4-dimethylaminophenethyl)piperidine (0.18 g, 0.80 mmol) in dimethyl sulfoxide (2 ml) was added dropwise to the obtained solution, and they were stirred at 50° C. for 6 hours. The reaction mixture was distributed into saturated aqueous sodium chloride solution and ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (6:4) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-1-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oily substance (0.23 g, 64%).

reactant | sodium hydride | 0.88 mmol, 35 mg | [H-].[Na+]
reactant | 1-Fluoro-5,11-dihydrodibenzo[b,e][1,4]oxazepine | 0.80 mmol, 0.17 g | FC1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H10FNO
reactant | (R)-3-chloro-1-(4-dimethylaminophenethyl)piperidine | 0.80 mmol, 0.18 g | Cl[C@H]1CN(CCC1)CCC1=CC=C(C=C1)N(C)C | C15H23ClN2
reactant | sodium chloride | [Cl-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | FC1=CC=CC=2N(C3=C(OCC21)C=CC=C3)C[C@@H]3N(CCCC3)CCC3=CC=C(C=C3)N(C)C | C29H34FN3O
